Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Diplopia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old R-handed man who presents as post TPA
transfer from ___ for likely posterior circulation stroke. 

He was in normal state of health until around 7:45AM when he
noted sudden onset vertical+horizontal diplopia with left sided
image above the right. He went to the ___ at that
point and ___ showed no bleed or hypodensity and CTA H and N
showed open vessels. He was seen by our telestroke department at
that time who approved the plan for observation. 

Then at 11AM, he suddenly worsened and developed dysarthria, R
facial droop, mild R arm weakness, mild R arm ataxia, downgaze
limitation - NIHSS noted to be 5 at that time. On re-consult 
with
our telestroke team, he was given TPA at 11:15AM, then
transferred to ___ for post TPA monitoring. 

On arrival, pt says that he feels the same as he did after TPA.
However, on the exam above, he has worsened b/l leg weakness
compared to prior. Repeat NCHCT and CTA stable and normal. 

 
Past Medical History:
Cervical trauma requiring fusion in ___ with residual L arm and
leg weakness. 
Bradycardia since his cervical injury. 

 
Social History:
___
Family History:
Father had stroke in ___ yo range.
 
Physical Exam:
ADMISSION EXAM:

Neurologic:

-Mental Status: Alert, oriented to month, year, but not 
hospital.
Able to relate history without difficulty. Mildly Inattentive.
Language is fluent with intact comprehension. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was dysarthric but understandable. 
Able
to follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Downgaze limitation
in both eyes, Very mild skew with R slightly above L. No
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: R NLFF with good activation. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and tongue appears strong
confrontationally but has more dysarthria with lingual sounds.

-Motor: Increased tone in ___. Mild cupping of right fingers with
testing of pronator drift.  
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
R  5    ___   ___   5    4+ 5-    5     5   4+
L  5    ___   ___ 5    ___   5     4   4
IP and TA are effort dependent. 

-Sensory: No deficits to light touch. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
R  3  3    3    3   2
L  3  3    3    4   4
Plantar response was extensor bilaterally. Sustained clonus in L
ankle. No clonus in R ankle. Crossed adductors and pectoral 
jerks
b/l. B/l Hoffmans present. 

DISCHARGE EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history. 
Able to maintain attention to examination. Able to follow 
commands appropriately; In terms of language, patient displayed 
verbal fluency and comprehension, with mild dysarthria. 
Repetition intact. Remote memory impaired? (can't recall events 
surrounding prior cervical spine injury)
-Cranial Nerves:
II, III, IV, VI:  PERRL 2->1 brisk. EOMI without
nystagmus. Normal saccades. Conjugate gaze w/o abnormality on 
test of skew. 
V: Facial sensation symmetric
VII: Appropriate smile symmetric
VIII: Hearing intact grossly.
IX, X: Palate elevation intact w/o asymmetry
XII: Tongue seen to be midline w/ adequate movement. 
-Motor: Normal bulk, tone throughout. No adventitious movements,
such as tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  3   4+   4+ 4     4+    4   4
R  5    ___   ___  4   5    5  4+    5     5   5
Normal pronator drift
-Sensory: Intact to light sensation b/l. No extinction on DSS.

-DTRs:
  Bi Tri ___ Pat Ach
R  2+ 2+  2+    3   2
L  2+ 2+  2+    3   4
Plantar response was extensor bilaterally. Sustained clonus in L
ankle. No clonus in R ankle. Crossed adductors b/l. R ___
present. Finger jerk response present b/l.B/l Hoffmans present. 
-Coordination: No dysmetria on the right.
Negative head impulse test. RAM decreased in RUE at digits
-Gait: Deferred.
-Coordination: Mild dysmetria on R finger/nose/finger 

-Gait: Deferred

Discharge exam: 
MS: awake and alert. no dysarthria. language is fluent 
CN: PERRL 3-->2. EOMI. face activates symmetrically. 
Motor: No pronator drift. ___ in bl upper extr. ___ weakness in 
LLE UMN pattern. 
sensory: intact to LT
Coordination: FNF without ataxia 

 
Pertinent Results:
___ 01:15PM BLOOD WBC-7.8 RBC-4.58* Hgb-13.9 Hct-41.7 
MCV-91 MCH-30.3 MCHC-33.3 RDW-12.4 RDWSD-40.6 Plt ___
___ 01:10PM BLOOD ___ PTT-33.6 ___
___ 06:30AM BLOOD Glucose-83 UreaN-18 Creat-0.8 Na-141 
K-4.3 Cl-105 HCO3-27 AnGap-13
___ 06:30AM BLOOD CK(CPK)-521*
___ 02:27PM BLOOD ALT-23 AST-23 AlkPhos-48 TotBili-0.4
___ 06:30AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.0 Cholest-144
___ 06:30AM BLOOD Triglyc-107 HDL-49 CHOL/HD-2.9 LDLcalc-74
___ 06:30AM BLOOD %HbA1c-5.1 eAG-100
___ 02:27PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___
No atrial septal defect is seen on color flow Doppler, but there 
is early appearance of agitated saline/microbubbles in the left 
atrium/ventricle at rest most consistent with an atrial septal 
defect or stretched patent foramen ovale (though a very proximal 
intrapulmonary shunt cannot be fully excluded). The estimated 
right atrial pressure is ___ mmHg. Normal left ventricular wall 
thickness, cavity size, and global systolic function (3D LVEF = 
58 %). The right ventricular cavity is mildly dilated with 
normal free wall contractility. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. Trace aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

 IMPRESSION: ASD/stretched PFO present.  

___ Head w/o contrast
Restricted diffusion is seen within the left thalamus, with 
extension to the superior margin of the left cerebral peduncle, 
with associated FLAIR signal abnormality concerning for a acute 
to subacute infarct.  There is no associated intracranial 
hemorrhage.  Ventricles and sulci are normal in size and 
configuration.  The visualized vascular flow voids appear to be 
well preserved.  Mild mucosal sinus thickening is seen involving 
the ethmoid air cells.  Partial opacification is seen involving 
the left mastoid air cells. 
  
The globes are unremarkable.  No marrow signal abnormalities are 
identified.  
No marrow signal abnormalities are identified. 
  
IMPRESSION: 
  
  
1. Restricted diffusion within the left thalamus, with extension 
to the 
superior margin of left cerebral peduncle with associated FLAIR 
signal 
abnormality, secondary to an acute to subacute infarct.  No 
associated 
intracranial hemorrhage identified. 

 
Brief Hospital Course:
Patient was transferred to ___ after receiving tPA at OSH. 
Repeat CT/CTA performed was negative for any acute infarct. Most 
of patient's symptoms were seen to resolve except for continued 
lower extremity weakness and some visual field deficit. Echo was 
performed which showed small PFO/ASD. Patient was started on 
aspirin therapy. MRI Brain showed infarct in Left Thalamus. 
Lower extremity dopplers were performed which were negative (MRV 
of the pelvis must be done as an out patient). Due to appearing 
clinically stable, patient will be discharged from the hospital 
with Neurology follow up and continued physical therapy at ___ 
___.

Transition Issues:
-Patient will need to follow up with Neurology (Dr. ___ as 
outpatient
-Patient will need to undergo ___ of Hearts monitoring to 
determine if there is a paroxysmal arrhythmia
- Pt needs to return to ___ for MRV of the pelvis as soon as 
possible. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL =104 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: Not significantly elevated LDL, CK 
elevated]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: See above ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of R sided weakness and 
visual changes resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors.
We are changing your medications as follows:  
Please start taking Aspirin 81mg daily.

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below. You will be contacted by our ___ 
program to arrange for an event monitor to evaluate for possible 
cardiac arrhythmia that may have precipitated this event. If 
need to contact, please call ___. 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

 
Followup Instructions:
___